Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
lisinopril / Aldactone / Betadine / spironolactone / fish oil / 
atorvastatin / guanfacine
 
Attending: ___.
 
Chief Complaint:
dysuria, urinary frequency, subjective fevers
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ year old female with history of IgA
nephropathy w/ ESRD who is now POD16 from a pediatric en bloc
deceased donor renal transplant. Her course was complicated by
___ hematoma requiring transfusion. She was
discharged ___ on a course of augmentin for enterococcus UTI
and ciprofloxacin for donor positive pan sensitive pseudomonas
blood culture.  She was recovering well at home and was seen 
this
week in transplant clinic and was reportedly well, compliant 
with
medications. She has complained of dysuria since surgery however
states it became worse this morning and was accompanied by low
grade temperature to 100.4 at home, increased void frequency, 
and
minor chills. On presentation to the ED she is afebrile after
taking Tylenol at home. She denies fevers and chills now. She 
had
diarrhea this week which stopped when she discontinued her bowel
regimen. She otherwise feels well and denies hematuria, nausea,
vomiting, SOB, CP, flank pain, back pain, abdominal pain. Her
tacro dose was decreased to 2.5 BID this past week and she was
started on sodium bicarbonate, otherwise she denies changes to
her medications.

 
Past Medical History:
Past Medical History:  
 - IgA nephropathy resulting in end stage renal disease  
 - Hypertension  
 - Anemia  
 - Nephrolithiasis  
 - Hyperlipidemia  
 - Sciatica  
 - Thyroid nodules.  
 - Hx Hep B
 
 Past Surgical History:  
-pediatric en bloc deceased donor renal transplant ___
-L brachiobasilic AVF ___, superficialization ___, 
-TAH/BSO
-PD catheter ___  
 
Social History:
___
Family History:
Family History:
No known family history of diabetes or renal disease. Patient's 
mother with myocardial infarction.
 
Physical Exam:
Vitals: 98.6, 77, 109 / 72, 18, 98% RA 
General: Alert, oriented, no acute distress
HEENT: NO pallor. no icterus. conjuctiva and sclera clear
CV: Regular rate and rhythm
Lungs: unlabored respirations on room air
Abdomen: Soft, non-distended, tender in RLQ incision, staples 
have been removed with steri strips in place, some underlying 
firmness and tenderness in RLQ. No suprapubic tenderness. No 
costovertebral tenderness. 
Ext: no clubbing, cyanosis or edema;
Neuro: No focal deficits. normal speech
Access: LUE AVF

 
Pertinent Results:
=========================
LABS

___ 02:00PM BLOOD WBC-7.2 RBC-2.82* Hgb-9.2* Hct-27.8* 
MCV-99* MCH-32.6* MCHC-33.1 RDW-17.0* RDWSD-58.6* Plt ___
___ 08:20AM BLOOD WBC-5.8 RBC-2.99* Hgb-9.6* Hct-29.7* 
MCV-99* MCH-32.1* MCHC-32.3 RDW-16.8* RDWSD-58.9* Plt ___

___ 02:00PM BLOOD Glucose-126* UreaN-25* Creat-1.1 Na-139 
K-4.7 Cl-107 HCO3-17* AnGap-20
___ 08:20AM BLOOD Glucose-106* UreaN-19 Creat-1.0 Na-134 
K-4.7 Cl-104 HCO3-24 AnGap-11

___ 02:00PM BLOOD Calcium-9.2 Phos-2.0* Mg-1.5*
___ 08:20AM BLOOD Calcium-9.4 Phos-1.7* Mg-1.8

___ 08:20AM BLOOD tacroFK-7.6

___ 02:50PM URINE Color-Straw Appear-Clear Sp ___
___ 02:50PM URINE Blood-SM  Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-TR
___ 02:50PM URINE RBC-1 WBC-3 Bacteri-NONE Yeast-NONE Epi-0 
TransE-<1

___ 2:50 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

=========================
IMAGING

EXAMINATION:  RENAL TRANSPLANT U.S. 
  
INDICATION:  ___ year old woman with recent en bloc renal 
transplant presenting with fever.  Assess renal transplant. 
  
TECHNIQUE:  Grey scale as well as color and spectral Doppler 
ultrasound images of the renal transplant were obtained. 
  
COMPARISON:  Renal transplant ultrasound from ___ 
  
FINDINGS:  
  
The right iliac fossa en block transplant kidneys are 
identified. 
  
Kidney 1: This kidney measures 7.8 cm.  There is unchanged mild 
pelvocaliectasis.  Color flow and Doppler waveforms are normal 
throughout the transplant kidney with resistive indices in the 
intrarenal arteries measuring 0.73-0.78. The main renal artery 
shows a normal waveform, with prompt systolic upstroke and 
continuous antegrade diastolic flow, with peak systolic velocity 
of 318 cm/sec.  Vascularity is symmetric throughout transplant. 
The transplant renal vein is patent and shows normal waveform. 
  
Kidney 2: Kidney measures 6.3 cm.  There is no hydronephrosis.  
Color flow and Doppler waveforms are also normal throughout the 
kidney with resistive indices measuring 0.68 throughout the 
intrarenal arteries.  The main renal artery shows a normal 
waveform, with prompt systolic upstroke and continuous antegrade 
diastolic flow, with peak systolic velocity of 92.7 cm/sec.  
Vascularity is symmetric throughout transplant. The transplant 
renal vein is patent and shows normal waveform. 
  
There is a resolving pelvic hematoma which measures 9.8 x 3.3 x 
5.7 cm, 
previously 12.4 x 8.4 x 7.6 cm, decreased in size.  The bladder 
is mildly 
distended but overall unremarkable.  At least one ureteral stent 
is 
identified. 
  
IMPRESSION:  
  
1.  Symmetric vascularity throughout both transplant kidneys 
with mildly 
elevated resistive indices in one of the kidneys, as before. 
  
2.  Slightly decreased size of the resolving peritransplant 
hematoma now 
measuring 9.8 cm. 

 
Brief Hospital Course:
Mrs. ___ was re-admitted to the hospital for observation after 
presenting to the hospital with subjective fever at home to 
100.4 and worsened dysuria and urinary frequency 5 days after 
discharge to home from her kidney transplant hospitalization. 
Her urinalysis was essentially normal and her urine culture did 
not grow any organisms. Her WBC was normal, she made appropriate 
urine output, and she remained afebrile for > 24hrs. Her kidney 
graft function is excellent with Cr of 1.0. She has been 
adherent to her post-transplant regimen including a course of 
augmentin for an enterococcus urinary tract infection that has 
resolved from her original admission, and ciprofloxacin for 
pseudomonal coverage due to her donor having pan-sensitive 
pseudomonas bacteremia.  Her home medications were continued, 
including her immunosuppressive regimen and prophylactic 
medications. Tacrolimus level was 7.6 and her 2.5q12hr dose was 
not changed. She was tolerating a regular diet with stable 
symptoms and expressed her desire to return home. With 
assistance of her daughter's interpretation the patient was 
educated about expected post-operative discomfort and frequent 
voiding due to the re-expansion of the bladder. She is due for 
labs the day after discharge and expressed her understanding of 
this. She will have outpatient follow up with the transplant 
center this week. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
2. Carvedilol 25 mg PO BID 
3. Ciprofloxacin HCl 500 mg PO Q12H 
4. Gabapentin 100 mg PO QHS 
5. LaMIVudine 100 mg PO DAILY 
6. Mycophenolate Mofetil 1000 mg PO BID 
7. Nystatin Oral Suspension 5 mL PO QID 
8. Omeprazole 20 mg PO DAILY 
9. PredniSONE 5 mg PO DAILY 
10. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
11. Tacrolimus 2.5 mg PO Q12H 
12. ValGANCIclovir 450 mg PO Q24H 
13. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild 
14. Sodium Bicarbonate 650 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 325 mg PO Q6H:PRN Pain - Mild  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
End date ___  
3.  Carvedilol 25 mg PO BID  
4.  Ciprofloxacin HCl 500 mg PO Q12H 
End date ___  
5.  Gabapentin 100 mg PO QHS  
6.  LaMIVudine 100 mg PO DAILY  
7.  Mycophenolate Mofetil 1000 mg PO BID  
8.  Nystatin Oral Suspension 5 mL PO QID  
9.  Omeprazole 20 mg PO DAILY  
10.  PredniSONE 5 mg PO DAILY  
11.  Sodium Bicarbonate 650 mg PO BID  
12.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
13.  Tacrolimus 2.5 mg PO Q12H  
14.  ValGANCIclovir 450 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
dysuria

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever > 
101, chills, nausea, vomiting, diarrhea, constipation, inability 
to tolerate food, fluids or medications, yellowing of skin or 
eyes, increased abdominal pain, incisional redness, drainage or 
bleeding, dizziness or weakness, decreased urine output or dark, 
cloudy urine, swelling of abdomen or ankles, or any other 
concerning symptoms.

Bring your pill box and list of current medications to every 
clinic visit.

You will have labwork drawn every ___ and ___ as 
arranged by the transplant clinic, with results to the 
transplant clinic (Fax ___ . CBC, Chem 10, AST, T 
Bili, Trough Tacro level, Urinalysis.

*** On the days you have your labs drawn, do not take your Tacro 
until your labs are drawn. Bring your Tacro with you so you may 
take your medication as soon as your labwork has been drawn.

Follow your medication card, keep it updated with any dosage 
changes, and always bring your card with you to any clinic or 
hospital visits.

You may shower. Allow the water to run over your incision and 
pat area dry. No rubbing, no lotions or powder near the 
incision. You may leave the incision open to the air. The 
staples are removed approximately 3 weeks following your 
transplant.

No tub baths or swimming

No driving if taking narcotic pain medications

Avoid direct sun exposure. Wear protective clothing and a hat, 
and always wear sunscreen with SPF 30 or higher when you go 
outdoors.

Drink enough fluids to keep your urine light in color. Your 
appetite will return with time. Eat small frequent meals, and 
you may supplement with things like carnation instant breakfast 
or Ensure.

Check your blood sugars and blood pressure at home. Report 
consistently elevated values to the transplant clinic

Do not increase, decrease, stop or start medications without 
consultation with the transplant clinic at ___. There 
are significant drug interactions with anti-rejection 
medications which must be considered in medication management 
following transplant. Your medications were not changed, 
continue these as ordered. 

Consult transplant binder, and there is always someone on call 
at the transplant clinic with any questions that may arise.
 
Followup Instructions:
___